US05220042
998 Milligrams of 2,2'-pentamethylenebis[1,4-dimethoxy-3,6-bis(methoxymethoxy)benzene] was dissolved in a mixed solvent of 30 ml of tetrahydrofuran with 3 ml of hexamethylphosphoric triamide, to this solution was added 1.03 ml of N,N,N',N'-tetramethylethylenediamine, was cooled to -78° C. on a dry ice-acetone mixture bath. 4.56 Milliliters of n-butyllithium (1.6 M, n-hexane solution) was added dropwise to the reaction mixture and stirred for 30 minutes. Next, 15 ml of tetrahydrofuran solution containing 1.22 g of N-bromosuccinimide was added dropwise and the reaction mixture was stirred overnight. The solvent was removed under reduced pressure, and the residue obtained was extracted twice with 50 ml of diethyl ether, and the diethyl ether layer was washed twice with 50 ml of water, and washed twice with 50 ml of a saturated sodium chloride aqueous solution, then dried over anhydrous magnesium sulfate. The diethyl ether solution was concentrated under reduced pressure, the residue obtained was purified by means of a preparative thin layer chromatography (thickness: 2 mm, adsorbent: Merck 5717 silica gel, developing solvent: 40% ethyl acetate-n-hexane). There were obtained 155 mg of 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]-5-[2,5-dimethoxy- 3,6-bis(methoxymethoxy)-4-bromophenyl]pentane, as well as 22 mg of 2,2'-pentamethylenebis[1,4-dimethoxy-3,6-bis(methoxymethoxy)-5-bromobenzene].

reactant | 2,2'-pentamethylenebis[1,4-dimethoxy-3,6-bis(methoxymethoxy)benzene] | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C29H44O12
reactant | N,N,N',N'-tetramethylethylenediamine | 1.03 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | N-bromosuccinimide | 1.22 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 3 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]-5-[2,5-dimethoxy- 3,6-bis(methoxymethoxy)-4-bromophenyl]pentane | 155 mg | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCCCCC1=C(C(=C(C(=C1OCOC)OC)Br)OCOC)OC | C29H43BrO12
